US06949552B2
1.04 g of 1-t-Butoxycarbonyl-4-{1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]-2-oxoethyl}-4-hydroxypiperidine was dissolved in 10 ml of methanol, and 20 ml of 4M hydrogen chloride/1,4-dioxane solution was added, followed by stirring at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, ethyl acetate was added to the residue, and the mixture was washed with 1M aqueous sodium hydroxide solution and a saturated aqueous sodium solution. The organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in 9 ml of acetonitrile, and 640 μl of 37% formalin, 190 μl of acetic acid and 160 mg of sodium cyanoborohydride were added, followed by stirring at room temperature for an hour. The reaction solution was diluted with ethyl acetate and washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=2:1) to give 0.44 g of 4-{1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]-2-oxoethyl}-1-methylpiperidin-4-ol as an oil.

reactant | 1-t-Butoxycarbonyl-4-{1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]-2-oxoethyl}-4-hydroxypiperidine | 1.04 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C(C(=O)N1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)F | C36H46FN3O4
reactant | hydrogen chloride 1,4-dioxane | 4M, 20 ml | Cl.O1CCOCC1
solvent | methanol | 10 ml | CO | CH4O
product | 4-{1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]-2-oxoethyl}-1-methylpiperidin-4-ol | 0.44 g | FC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)C1(CCN(CC1)C)O | C32H40FN3O2
